US08022223B2
Step B: Preparation of N-(3-(1-(2-aminoethylsulfonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-amine:
2-(2-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-ylsulfonyl)ethyl)isoindoline-1,3-dione (0.110 g, 0.157 mmol) and hydrazine monohydrate (0.0236 g, 0.472 mmol) were dissolved in EtOH (25 mL) and heated to reflux for 8 hours. The reaction was cooled to ambient temperature and the solids filtered and triturated with EtOH to afford the title compound (0.013 g, 14.5% yield). 1H NMR (d6-DMSO) δ 8.38 (d, 1H), 8.36 (m, 1H), 7.66 (dt, 1H), 7.45 (d, 1H), 7.41 (t, 2H), 7.20-7.10 (m, 5H), 3.61 (d, 2H), 3.12 (t, 2H), 3.01-2.89 (m, 5H), 2.09 (d, 2H), 1.79 (m, 2H).

reactant | 2-(2-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-ylsulfonyl)ethyl)isoindoline-1,3-dione | 0.157 mmol, 0.110 g | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)C1CCN(CC1)S(=O)(=O)CCN1C(C2=CC=CC=C2C1=O)=O | C33H29N7O5S3
reactant | hydrazine monohydrate | 0.472 mmol, 0.0236 g | O.NN
solvent | EtOH | 25 mL | CCO | C2H6O
product | N-(3-(1-(2-aminoethylsulfonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-amine | 0.013 g, 14.5% yield | NCCS(=O)(=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C=C1OC1=CC=CC=C1)SC1=NC=CC=C1 | C25H27N7O3S3
